** sch_path: /foss/designs/a_zonetic2026/XSCHEM/TEST/test_decoder.sch
**.subckt test_decoder
V1 VDD GND 5
V2 VDD1 GND 5
V9 VDD2 GND 5
x1 VDD VXY VXZ X Y VYZ Z GND DECODER
V6 VXY GND pulse(0 5 0 1m 1m 0.5 1)
V7 VXZ GND pulse(0 5 0 1m 1m 0.25 0.5)
V8 VYZ GND pulse(0 5 0 1m 1m 0.125 0.25)
**** begin user architecture code


.tran 100u 1
.save all
.control
run
wrdata in.txt    v(VXY) v(VXZ) v(VYZ)
wrdata outX.txt  v(X) v(X1) v(X2)
wrdata outY.txt  v(Y) v(Y1) v(Y2)
wrdata outZ.txt  v(Z) v(Z1) v(Z2)
wrdata power.txt v(VDD)*i(v1) v(VDD1)*i(v2) v(VDD2)*i(v9)
plot v(VXY) v(VXZ) v(VYZ)
plot v(X) v(X1)
plot v(Y) v(Y1)
plot v(Z) v(Z1)
plot v(VDD)*i(v1) v(VDD1)*i(v2)
.endc



.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice cap_mim
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice moscap_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice mimcap_typical
* .lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_statistical


.include ../../../../Layouts/DECODER/mag/DECODER_pex_rc_LAY.spice
Xextrc GND VDD1 VYZ Z1 VXY VXZ Y1 X1 DECODER_LAY
.include ../../../../layouts_v2/DECODER/mag/DECODER_V2_pex_rc.spice
Xextrc2 GND VDD2 VYZ Z2 VXY VXZ Y2 X2 DECODER_V2
*DECODER_LAY VSS VDD YZ Z XY XZ Y X


**** end user architecture code
**.ends

* expanding   symbol:  a_zonetic2026/XSCHEM/DECODER/DECODER.sym # of pins=8
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/DECODER.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/DECODER.sch
.subckt DECODER VDD XY XZ X Y YZ Z VSS
*.ipin XY
*.ipin XZ
*.iopin VDD
*.iopin VSS
*.iopin X
*.ipin YZ
*.iopin Y
*.iopin Z
x2 YZ XY VDD Y VSS yGates
x1 VSS VDD XZ YZ Z Z
x3 VDD XY X XZ VSS xGates
.ends


* expanding   symbol:  a_zonetic2026/XSCHEM/DECODER/yGates.sym # of pins=5
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/yGates.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/yGates.sch
.subckt yGates YZ XY VDD output VSS
*.ipin VDD
*.ipin VSS
*.ipin YZ
*.ipin XY
*.opin output
x2 VDD net1 XY VSS invertor
x3 YZ VDD net1 output VSS andGate
.ends


* expanding   symbol:  a_zonetic2026/XSCHEM/DECODER/Z.sym # of pins=5
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/Z.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/Z.sch
.subckt Z VSS VDD XZ YZ out
*.iopin VSS
*.iopin VDD
*.ipin XZ
*.ipin YZ
*.opin out
XM4 net1 YZ out VDD pfet_06v0 L=1.0u W=3.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 VDD XZ net1 VDD pfet_06v0 L=1.0u W=3.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM7 VSS YZ out VSS nfet_06v0 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM1 VSS XZ out VSS nfet_06v0 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  a_zonetic2026/XSCHEM/DECODER/xGates.sym # of pins=5
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/xGates.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/xGates.sch
.subckt xGates VDD XY output XZ VSS
*.ipin XY
*.opin output
*.ipin VDD
*.ipin VSS
*.ipin XZ
x2 XY VDD XZ output VSS andGate
.ends


* expanding   symbol:  a_zonetic2026/XSCHEM/DECODER/invertor.sym # of pins=4
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/invertor.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/invertor.sch
.subckt invertor VDD output In VSS
*.opin output
*.ipin In
*.ipin VDD
*.ipin VSS
XM4 output In VDD VDD pfet_06v0 L=1.0u W=3.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 VSS In output VSS nfet_06v0 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  a_zonetic2026/XSCHEM/DECODER/andGate.sym # of pins=5
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/andGate.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/andGate.sch
.subckt andGate A VDD B output VSS
*.ipin VDD
*.ipin B
*.ipin A
*.ipin VSS
*.opin output
XM4 output net1 VDD VDD pfet_06v0 L=1.0u W=3.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 VSS net1 output VSS nfet_06v0 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 VDD A net1 VDD pfet_06v0 L=1.0u W=3.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM1 VDD B net1 VDD pfet_06v0 L=1.0u W=3.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 VSS A net2 VSS nfet_06v0 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 net2 B net1 VSS nfet_06v0 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.GLOBAL GND
.end
